US07884110B2
Intermediate 23: 6-Iodo-9-(2-trimethylsilanyl-ethoxymethyl)-9H-purine
405 mg (1.65 mmol) of 6-iodo-9H-purine was dissolved in 2 mL DMF. 72 mg (1.81 mmol) of 60% sodium hydride was added followed by 320 μL (1.81 mmol) of trimethylsilylethoxymethyl chloride. Yield: 343 mg of an oily product.

reactant | 6-iodo-9H-purine | 1.65 mmol, 405 mg | IC1=C2N=CNC2=NC=N1 | C5H3IN4
reactant | sodium hydride | 1.81 mmol, 72 mg | [H-].[Na+]
reactant | trimethylsilylethoxymethyl chloride | 1.81 mmol, 320 μL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-Iodo-9-(2-trimethylsilanyl-ethoxymethyl)-9H-purine | IC1=C2N=CN(C2=NC=N1)COCC[Si](C)(C)C | C11H17IN4OSi
